US08389508B2
To a solution of 5-{5-[5-fluoro-2-(methyloxy)-3-(2-oxoethyl)phenyl]-1,3,4-thiadiazol-2-yl}-2-(2-methylpropyl)benzonitrile (D37) (75 mg) and 3-azetidinecarboxylic acid (37 mg) in dichloromethane (DCM) (15 mL) stirred at room temperature was added AcOH (0.15 mL). The reaction mixture was stirred at room temperature for 10 min. Then sodium triacetoxyborohydride (58.2 mg) was added. Stirring continued for overnight. Water was added to quench the reaction, and DCM was removed by evaporation. The mixture was extracted by EA/THF/MeCN for 3 times. The combined organic solution was washed by brine, dried over anhydrous Na2SO4. The dried solution was filtered and concentrated. The residue was purified by Mass Directed AutoPrep to give 1-{2-[3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,3,4-thiadiazol-2-yl}-5-fluoro-2-(methyloxy)phenyl]ethyl}-3-azetidinecarboxylic acid (E15) (19 mg) as an off-white solid. δH (DMSO-d6, 400 MHz): 0.94 (6H, d), 1.99 (1H, m), 2.33 (1H, m), 2.67 (4H, m), 2.77 (2H, d), 3.17 (4H, m), 3.80 (3H, s), 7.47 (1H, dd), 7.68 (1H, d), 7.90 (1H, dd), 8.34 (1H, dd), 8.50 (1H, d). δF (DMSO-d6, 376 MHz): −117.2. MS (ES): C26H27FN4O3S requires 494. found 495.2 (M+H+).

reactant | 5-{5-[5-fluoro-2-(methyloxy)-3-(2-oxoethyl)phenyl]-1,3,4-thiadiazol-2-yl}-2-(2-methylpropyl)benzonitrile | 75 mg | FC=1C=C(C(=C(C1)C1=NN=C(S1)C=1C=CC(=C(C#N)C1)CC(C)C)OC)CC=O | C22H20FN3O2S
reactant | 3-azetidinecarboxylic acid | 37 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | AcOH | 0.15 mL | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 58.2 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 1-{2-[3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,3,4-thiadiazol-2-yl}-5-fluoro-2-(methyloxy)phenyl]ethyl}-3-azetidinecarboxylic acid | 19 mg | C(#N)C=1C=C(C=CC1CC(C)C)C1=NN=C(S1)C=1C(=C(C=C(C1)F)CCN1CC(C1)C(=O)O)OC | C26H27FN4O3S
